US07855292B2
E. (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid methyl ester
The title compound was prepared as in EXAMPLE 1, substituting 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride and 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoic acid in Part C. HPLC: RT=10.39 min. MS (ESI−): mass calcd. for C23H17Br2FN4O5S2, 672.34; m/z found, 671 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.42 (s, 1H), 8.37 (d, J=7.1, 1H), 8.22 (d, J=8.8, 1H), 7.88 (s, 1H), 7.75-7.71 (m, 1H), 7.27-7.25 (m, 1H), 7.11 (q, J=8.4, 2H), 7.09-6.94 (m, 2H), 6.56 (d, J=7.0, 1H), 4.94 (q, J=5.8, 1H), 3.82 (s, 3H), 3.25-3.11 (m, 2H).

reactant | 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)F)Br)=O
reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Br | C13H8BrN3O4S2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)F)Br)NC(C1=C(C=C(C=C1)Br)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C23H17Br2FN4O5S2
